US09029361B2
Part B. Preparation of (8R,9aS)-8-hydroxy-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one
A mixture of (8R,9aS)-8-hydroxyoctahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride (90 mg, 0.435 mmol, Part A), 2-bromo-5-(trifluoromethyl)pyridine (148 mg, 0.635 mmol) and sodium carbonate (138 mg, 1.306 mmol) in dimethyl sulfoxide (0.4 mL) was stirred at 100° C. overnight. The mixture was purified by chromatography on silica gel (ethyl acetate/methanol=15:1) to give 135 mg (98% yield) of the titled compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.77 (m, 1H), 2.09 (m, 1 H), 2.50-2.66 (m, 2 H), 3.08 (m, 1 H), 3.35 (m, 2 H), 3.50 (m, 1 H), 3.98 (m, 2 H), 4.20 (m, 1 H), 4.44 (m, 1 H), 4.55 (m, 1H), 4.88 (br s, 1H), 7.01 (d, J=8 Hz, 1H), 7.81 (d, J=8 Hz, 1H), 8.43 (s, 1H); MS (ESI) m/z 316.0 (M+H)+.

reactant | (8R,9aS)-8-hydroxyoctahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one hydrochloride | Cl.O[C@@H]1C[C@@H]2N(C(CCNC2)=O)C1
reactant | 2-bromo-5-(trifluoromethyl)pyridine | 0.635 mmol, 148 mg | BrC1=NC=C(C=C1)C(F)(F)F | C6H3BrF3N
reactant | sodium carbonate | 1.306 mmol, 138 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethyl sulfoxide | 0.4 mL | CS(=O)C | C2H6OS
product | (8R,9aS)-8-hydroxy-2-[5-(trifluoromethyl)pyridin-2-yl]octahydro-5H-pyrrolo[1,2-a][1,4]diazepin-5-one | 135 mg, 98% yield | O[C@@H]1C[C@@H]2N(C(CCN(C2)C2=NC=C(C=C2)C(F)(F)F)=O)C1 | C14H16F3N3O2
